US04166822
(B) Preparation of 1-isopropylamino-4-bromo- 8-methoxy-anthraquinone
50 g of 1-isopropylamino-8-methoxy-anthraquinone are dissolved in 500 ml of 30% strength hydrochloric acid; 33 g of bromine are added dropwise to the clear solution over the course of 15 minutes at 10°-15° and the mixture is stirred for a further 18 hours at room temperature. It is stirred into 5,000 ml of ice-cold water, excess bromine is removed by means of the amount of bisulphite just required, and the product is filtered off, washed until neutral and dried in vacuo. Yield: 62 g. Bromine content: 21.1%.

reactant | 1-isopropylamino-8-methoxy-anthraquinone | 50 g | C(C)(C)NC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)OC)=O | C18H17NO3
reactant | bromine | 33 g | BrBr | Br2
solvent | hydrochloric acid | Cl | ClH
product | 1-isopropylamino-4-bromo- 8-methoxy-anthraquinone | C(C)(C)NC1=CC=C(C=2C(C3=CC=CC(=C3C(C12)=O)OC)=O)Br | C18H16BrNO3
